US09193719B2
1-(5-((2-Chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-3-neopentyl-1H-1,2,4-triazol-5(4H)-one (0.15 g, 0.40 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.11 g, 0.52 mmol), and K2CO3 (0.14 g, 1.04 mmol) were suspended in a solution of dioxane (2.0 mL) and water (0.40 mL). The suspension was sonicated and sparged with Ar for 10 min. Pd(PPh3)4 (0.05 g, 0.04 mmol) was added and the reaction mixture was stirred at 85° C. for 12 h, allowed to cool to RT, diluted with water (5 mL), and extracted with EtOAc (5×10 mL). The combined organics were dried (MgSO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (MeOH/DCM) to afford 1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-3-neopentyl-1H-1,2,4-triazol-5(4H)-one (0.124 g, 69%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.83 (s, 1H), 8.36 (d, J=5.7 Hz, 1H), 8.26 (s, 1H), 7.97 (s, 1H), 7.89 (d, J=8.8 Hz, 1H), 7.69 (d, J=8.8 Hz, 1H), 7.21 (d, J=2.4 Hz, 1H), 6.65 (dd, J=5.7, 2.4 Hz, 1H), 3.84 (s, 3H), 2.38 (s, 2H), 2.33 (s, 3H), 0.98 (s, 9H); MS (ESI) m/z: 420.2 (M+H+).

reactant | 1-(5-((2-Chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-3-neopentyl-1H-1,2,4-triazol-5(4H)-one | 0.40 mmol, 0.15 g | ClC1=NC=CC(=C1)OC=1C=CC(=NC1C)N1N=C(NC1=O)CC(C)(C)C | C18H20ClN5O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.52 mmol, 0.11 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 1.04 mmol, 0.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.04 mmol, 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.40 mL | O | H2O
product | 1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-3-neopentyl-1H-1,2,4-triazol-5(4H)-one | 0.124 g, 69% | CC1=C(C=CC(=N1)N1N=C(NC1=O)CC(C)(C)C)OC1=CC(=NC=C1)C=1C=NN(C1)C | C22H25N7O2
